US08017809B2
Bis(4,4′-(phenyl-2-benzyl-2-amino-ethoxyboryl)phenyl) ether
The entitled compound (73 mg) was obtained by allowing 77 mg of bis(4,4′-(phenylhydroxyboryl)phenyl) ether and 75 mg of 2-amino-3-phenylpropanol to act in 1 mL of acetonitrile.

reactant | bis(4,4′-(phenylhydroxyboryl)phenyl) ether | 77 mg | C1(=CC=CC=C1)B(O)C1=C(C=CC=C1)OC1=C(C=CC=C1)B(O)C1=CC=CC=C1 | C24H20B2O3
reactant | 2-amino-3-phenylpropanol | 75 mg | NC(CO)CC1=CC=CC=C1 | C9H13NO
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | Bis(4,4′-(phenyl-2-benzyl-2-amino-ethoxyboryl)phenyl) ether | C1(=CC=CC=C1)B(OCC(N)CC1=CC=CC=C1)C1=C(C=CC=C1)OC1=C(C=CC=C1)B(OCC(N)CC1=CC=CC=C1)C1=CC=CC=C1 | C42H42B2N2O3
